datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:9])([H:7])[H:8],55.8146
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[S:16]([C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])[H:25])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([S:16][H:24])([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])[H:25],-1.6736
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],96.9516
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]2([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]2[H:18])=[C:9]1[H:19]>>[C:0]1([H:10])=[C:9]([H:19])[C:3]([C:4]2([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]2[H:18])=[C:2]([H:13])[C:1]1([H:11])[H:12],101.2528
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[N:1][H:5])([H:2])[H:3].[H:4][C:6]([H:7])([H:8])[H:9],-2.63592
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:23])[H:24])[H:22])[H:10],64.7683
[C:0](=[O:1])([H:2])[H:3].[Cl:4]>>[C:0](=[O:1])[H:3].[H:2][Cl:4],0.282692
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][O:16][H:17]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][O:15][O:16][H:17],61.6047976
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])([H:5])[H:6],29.539
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][O:15][H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:14][O:15][H:16],57.40448
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],43.5136
[O:0][O:1][C:2]([O:3][H:6])([H:4])[H:5]>>[C:2](=[O:3])([H:4])[H:5].[O:0]([O:1])[H:6],123.219
[C:0](=[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1[C:3]([H:10])([H:11])[C:5]([C:6]([H:15])([H:16])[H:17])([H:14])[C:4]1([H:12])[H:13])[H:9])([H:7])[H:8],121.838
[C:0]([C:1]([O:2][Si:3]([O:4][H:16])([O:5][C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])[O:8][C:9]([C:10]([H:24])([H:25])[H:26])([H:22])[H:23])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([H:14])[H:15])([H:11])[H:12].[O:2]([Si:3]([O:4][H:16])([O:5][C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])[O:8][C:9]([C:10]([H:24])([H:25])[H:26])([H:22])[H:23])[H:13],286.821568
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],62.0069
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][O:6],22.19612
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])[H:14])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10].[O:5][H:15],6.276
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[O:28][H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:11][O:28][H:29],0.0
